US07638515B2
1,1,1-Trifluoro-4-phenyl-2-[(quinolin-5-yl)iminomethyl]-4-methylpentan-2-ol
Analogously to Example 13, 120 mg of 2-hydroxy-4-methyl-4-phenyl-2-trifluoromethylpentanal and 61 mg of 5-aminoquinoline are converted into 95 mg of product.

reactant | 2-hydroxy-4-methyl-4-phenyl-2-trifluoromethylpentanal | 120 mg | OC(C=O)(CC(C)(C1=CC=CC=C1)C)C(F)(F)F | C13H15F3O2
reactant | 5-aminoquinoline | 61 mg | NC1=C2C=CC=NC2=CC=C1 | C9H8N2
product | 1,1,1-Trifluoro-4-phenyl-2-[(quinolin-5-yl)iminomethyl]-4-methylpentan-2-ol | FC(C(CC(C)(C)C1=CC=CC=C1)(O)C=NC1=C2C=CC=NC2=CC=C1)(F)F | C22H21F3N2O
